*
.SUBCKT BCV62A 1 2 3 4
*
Q1 2 1 3 QBCV62A
Q2 1 1 4 QBCV62A
*
*
.MODEL QBCV62A PNP(
+     IS = 1.17E-14
+     NF = 0.9972
+     ISE = 1.762E-14
+     NE = 1.661
+     BF = 161.3
+     IKF = 0.15
+     VAF = 59.62
+     NR = 0.9967
+     ISC = 1.506E-13
+     NC = 1.32
+     BR = 6.78
+     IKR = 0.048
+     VAR = 15.4
+     RB = 10
+     IRB = 5E-06
+     RBM = 5
+     RE = 0.689
+     RC = 0.61
+     XTB = 0
+     EG = 1.11
+     XTI = 3
+     CJE = 1.325E-11
+     VJE = 0.8514
+     MJE = 0.3999
+     TF = 8.333E-10
+     XTF = 2.41
+     VTF = 6.262
+     ITF = 0.097
+     PTF = 0
+     CJC = 6.396E-12
+     VJC = 0.2182
+     MJC = 0.333
+     XCJC = 0.6288
+     TR = 7E-08
+     CJS = 0
+     VJS = 0.75
+     MJS = 0.333
+     FC = 0.8981)
*
.ENDS
*